US08389743B2
Ethylchloroformate (0.505 ml, 5.28 mmol) was added to a solution of Example 16, 3-fluoro-3-(3-fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanecarboxylic acid ethylamide (1.7 g, 5.28 mmol) in DCE (50 ml) After 1 hr stirring at rt, the reaction was quenched with saturated aq.NaHCO3 (150 ml) and extracted with CH2Cl2 (3×100 ml) to recover a residual oil. This was purified by flash column chromatography using a 120 g ISCO™ cartridge and 35% and 40% EtOAc/hexanes to obtain an intermediate 3-(4-chloromethyl-3-fluoro-phenyl)-3-fluoro-cyclobutanecarboxylic acid ethylamide (1.1 g, 75% yield).

reactant | Ethylchloroformate | 5.28 mmol, 0.505 ml | C(C)OC(=O)Cl | C3H5ClO2
reactant | 3-fluoro-3-(3-fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanecarboxylic acid ethylamide | 5.28 mmol, 1.7 g | C(C)NC(=O)C1CC(C1)(C1=CC(=C(C=C1)CN1CCCC1)F)F | C18H24F2N2O
solvent | DCE | 50 ml | ClCCCl | C2H4Cl2
product | 3-(4-chloromethyl-3-fluoro-phenyl)-3-fluoro-cyclobutanecarboxylic acid ethylamide | 1.1 g, 75% yield | C(C)NC(=O)C1CC(C1)(F)C1=CC(=C(C=C1)CCl)F | C14H16ClF2NO
